US06008243
According to the procedure described in Example 1(c) for the preparation of N-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-yl)-3-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester, to a mixture of crude methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)-acetate (120 mg, ~0.58 mmol) and 4-fluoroaniline (50 μL, 0.53 mmol) in 1,2-dichloroethane (10 mL) was added trifluoroacetic acid (0.2 mL, 0.26 mmol). After 16 hours at 80° C., the resultant mixture was partitioned between EtOAc and 1M pH 7 phosphate buffer. The separated aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to a crude oil, which was purified via flash column chromatography with 0-15% EtOAc/hex gradient eluant to yield 100 mg (77%) of 2-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-acetic acid methyl ester as an oil. 1H NMR: δ 7.34-7.30 (m, 2H), 7.10 (t, 2H, J=8.6 Hz), 6.96-6.94 (m, 2H), 6.28 (t, 1H, J=2.2 Hz), 3.72 (s, 3H), 3.56 (s, 2H). Anal. Calculated for C13H12NO2F.0.6 H2O: C, 63.98; H, 5.45; N, 5.74. Found: C, 64.01; H, 5.04; N, 5.65.

reactant | N-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-yl)-3-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C(=O)NC1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)N2C=C(C=C2)C2=CC=CC=C2)=O | C36H36N4O5
reactant | methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)-acetate | ~0.58 mmol, 120 mg | COC1OC(CC1CC(=O)OC)OC | C9H16O5
reactant | 4-fluoroaniline | 0.53 mmol, 50 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | trifluoroacetic acid | 0.26 mmol, 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-acetic acid methyl ester | 100 mg, 77% | COC(CC1=CN(C=C1)C1=CC=C(C=C1)F)=O | C13H12FNO2
